US07368474B2
3. a) Toluene-4-Sulfonic acid 2-{2-[2-(2-hydroxy-ethoxy]-ethoxy}-ethoxy-ethyl ester
To a stirred suspension of p-toluenesulfonyl chloride (9.82 g, 51.5 mmol) in 2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-ethanol, (20 g, 103 mmol) at 0° C. was added dropwise triethylamine (13 ml, 93 mmol). The suspension was stirred at 0° C. for 1 hour and then at room temperature for another 16 hours. The resulting mixture was dissolved in dichloromethane (350 ml). The clear and colourless solution that was obtained was extracted with 1 M hydrochloric acid (2×100 ml) and once with water (200 ml). The organic phase was dried (MgSO4), filtered and evaporated to afford a colourless oil. The crude product was purified by flash chromatography using ethyl acetate. Tetraethylene glycol ditosylate, eluted first followed by toluene-4Sulfonic acid 2-{2-[2-(2-hydroxy-ethoxy)ethoxy]-ethoxy}-ethyl ester, as a colourless oil; 8.89 g (49%).

reactant | p-toluenesulfonyl chloride | 51.5 mmol, 9.82 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-ethanol | 103 mmol, 20 g | OCCOCCOCCOCCO | C8H18O5
reactant | triethylamine | 93 mmol, 13 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | Toluene-4-Sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
